US03957782
N-Butyl-6-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxamide
18 g. of 6-ethoxy-1-ethyl- 1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid ethyl ester (0.068 mol.), prepared according to Example 1c, are heated with 180 ml. of butylamine in an autoclave at 70° for 5 hours. After vacuum removal of excess butylamine, the residual N-butyl- 6-ethoxy-1-ethyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxamide is recrystallized from acetonitrile, m.p. 115°-117°. The mother liquor contains N-butyl-6-butyl-amino-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxamide (m.p. 128°-129°) which is identical with the compound of Example 4.

reactant | 6-ethoxy-1-ethyl- 1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid ethyl ester | 0.068 mol | C(C)OC(=O)C=1N=C2C(=NC1OCC)N(N=C2)CC | C12H16N4O3
reactant | butylamine | C(CCC)N | C4H11N
product | N-Butyl-6-ethoxy-1-ethyl-1H-pyrazolo[3,4-b]pyrazine-5-carboxamide | C(CCC)NC(=O)C=1N=C2C(=NC1OCC)N(N=C2)CC | C14H21N5O2
